US07786146B2
1-Acetyl-4,6-dimethyl-5-nitroindoline (2.4 g) was dissolved in methanol (25 ml). Hydrochloric acid 6N (20 ml) was added, followed by reflux for 15 hours. After the completion of the reaction, the solvent was evaporated under reduced pressure. The residue was dissolved in chloroform, and the mixture was washed with saturated aqueous sodium bicarbonate and saturated brine, and dried over sodium sulfate. The solvent was evaporated under reduced pressure. The residue was chromatographed (ISCO, hexane/EtOAc, 0-40%, 40 min) to give 1.8 g of 4,6-dimethyl-5-nitroindoline as yellow solids. 1H NMR (DMSO-d6, 400 MHz): δ 6.36 (brs, 1H, exchangeable with D2O, NH), 6.20 (s, 1H), 3.54 (t, J=8.0 Hz, 2H), 2.91 (t, J=8.0 Hz, 2H), 2.17 (s, 3H), 2.10 (s, 3H).

reactant | 1-Acetyl-4,6-dimethyl-5-nitroindoline | 2.4 g | C(C)(=O)N1CCC2=C(C(=C(C=C12)C)[N+](=O)[O-])C | C12H14N2O3
reactant | Hydrochloric acid | 6N, 20 ml | Cl | ClH
solvent | methanol | 25 ml | CO | CH4O
product | 4,6-dimethyl-5-nitroindoline | 1.8 g | CC1=C2CCNC2=CC(=C1[N+](=O)[O-])C | C10H12N2O2
